US04046895
By the method of Example 2, 1,2,3,4,7,8,9,10-octahydro-6-phenyl-phenanthridine is reacted with n-butyl-lithium solution to give 1,2,3,4,7,8,9,10-octahydro-4-lithio-6-phenylphenanthridine which in turn is reacted with trimethylsilyl isothiocyanate to give 1,2,3,4,7,8,9,10-octahydro-6-phenylphenanthridine-4-thiocarboxamide.

reactant | 1,2,3,4,7,8,9,10-octahydro-6-phenyl-phenanthridine | C1(=CC=CC=C1)C=1N=C2CCCCC2=C2CCCCC12 | C19H21N
reactant | n-butyl-lithium | C(CCC)[Li]
product | 1,2,3,4,7,8,9,10-octahydro-4-lithio-6-phenylphenanthridine | [Li]C1CCCC2=C3CCCCC3=C(N=C12)C1=CC=CC=C1 | InChI=1S/C19H20N.Li/c1-2-8-14(9-3-1)19-17-12-5-4-10-15(17)16-11-6-7-13-18(16)20-19;/h1-3,8-9,13H,4-7,10-12H2;
